US07507734B2
(a) 1-(6-Chloro-3-methoxy-pyridazin-4-yl)-propan-1-ol
104.6 ml of a 1.6M solution of n-Butyl lithium in hexane is added dropwise at −75° C. to 200 ml tetrahydrofuran followed by 28.3 ml 2,2,6,6-tetramethylpiperidine and the resulting solution is allowed to warm to 0° C. and stirred for 30 min. The solution is cooled to −75° C. and a solution of 11 g 3-chloro-6-methoxypyridazine in 100 ml tetrahydrofuran is added at the same temperature. The reaction is stirred for 30 min at −75° C. A solution of 65.9 ml propionaldehyde in 200 ml tetrahydrofuran is cooled to −75° C. and added to the reaction. The solution is stirred at −75° C. for 90 min, then a mixture of 55 ml concentrated aqueous HCl, 220 ml ethanol and 275 ml tetrahydrofuran is added and the mixture is allowed to warm to room temperature. 150 ml of saturated aqueous sodium bicarbonate is slowly added, and the tetrahydrofuran is removed under reduced pressure. The resulting aqueous phase is extracted 3 times with dichloromethane. The organic phase is dried (MgSO4), filtered and evaporated under reduced pressure. The product is purified by silica gel chromatography, eluting with a gradient of ethyl acetate in heptane. Yield 12.25 g. LC-MS (ES+) 203 (M+H)+. NMR analysis indicated that the product contained approximately 15% of 1-(3-Chloro-6-methoxy-pyridazin-4-yl)-propan-1-ol.

reactant | n-Butyl lithium | C(CCC)[Li]
reactant | 2,2,6,6-tetramethylpiperidine | 28.3 ml | CC1(NC(CCC1)(C)C)C | C9H19N
reactant | 3-chloro-6-methoxypyridazine | 11 g | ClC=1N=NC(=CC1)OC | C5H5ClN2O
reactant | propionaldehyde | 65.9 ml | C(CC)=O | C3H6O
reactant | HCl | 55 ml | Cl | ClH
reactant | sodium bicarbonate | 150 ml | C([O-])(O)=O.[Na+]
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 275 ml | O1CCCC1 | C4H8O
solvent | ethanol | 220 ml | C(C)O | C2H6O
product | 1-(6-Chloro-3-methoxy-pyridazin-4-yl)-propan-1-ol | ClC1=CC(=C(N=N1)OC)C(CC)O | C8H11ClN2O2
